US05639914
17.6 g (0.078 mol) of N-phenyl-p-isobutylaniline, 12.6 g (0.031 mol) of 4,4'-diiodobiphenyl, 12.9 g (0.093 mol) of anhydrous potassium carbonate, and 0.89 g (0.014 mol) of copper powder were mixed. The mixture was then allowed to undergo reaction at a temperature of 190° to 220° C. for 12 hours. The reaction product was then extracted with 70 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to obtain an oily material. The crude product thus obtained was then purified by column chromatography (carrier: silica gel; elute: 1/6 mixture of toluene and n-hexane) to obtain 8.5 g (yield: 45.7%) of N,N'-bis(p-isobutylphenyl)-N,N'-diphenylbenzidine. The melting point of the product was from 133.8° C. to 135.3° C.

reactant | N-phenyl-p-isobutylaniline | 0.078 mol, 17.6 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)CC(C)C | C16H19N
reactant | 4,4'-diiodobiphenyl | 0.031 mol, 12.6 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.093 mol, 12.9 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.014 mol, 0.89 g | [Cu] | Cu
product | N,N'-bis(p-isobutylphenyl)-N,N'-diphenylbenzidine | 8.5 g, yield: 45.7% | C(C(C)C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=C(C=C2)CC(C)C)C=C1)C1=CC=CC=C1 | C44H44N2
